US04831130
(S)-N-[1-[[[[(5-Methyl-3-isoxazolyl)amino]sulfonyl]amino]-carbonyl]-2-oxo-3-azetidinyl]benzeneacetamide
A mixture of 204 mg (1 mmol) of (S)-N-(2-oxo-3-azetidinyl)benzeneacetamide and 10 mL of 1,2-dimethoxyethane was stirred and cooled. At 0°-5° C. 0.104 mL of chlorosulfonyl isocyanate was added; within 5 minutes complete solution occurred. The reaction mixture was kept at 0°-5° C. for one hour. Then, with cooling to -10° C., a mixture of 98 mg (1 mmol) of 5-methyl-3-isoxazolamine, 0.415 mL (3 mmol) of triethylamine, and 0.30 mL (3 mmol) of pyridine was added. The cold bath was removed, and stirring continue for two hours. The mixture was then concentrated under reduced pressure, the residue dissolved in methylene chloride, and the solvent evaporated to leave an amorphous residue, which was then dissolved in a mixture of ethyl acetate and water. The mixture was acidified to pH 3; the organic layer was dried (Na2SO4), treated with charcoal, filtered, and concentrated to a residue of 180 mg. Purification was accomplished by preparative layer chromatography on three 20×20 cm Merck PLC plates (Silica Gel 60 F-254) using 10% MeOH in CHCl3 as the solvent to obtain the title compound: (Me2SO-d6) δ 2.29 (s, 3H, Me), 3.25 (dd, J4α, 4β =6 Hz, J3, 4β =3 Hz, 1H, CHCHαHβ), 3.45 (s, 2H, PhCH2), 3.60 (t, J3, 4α =J4α, 4β =6 Hz, 1H, CHCHα Hβ), 4.75 (m, 1H, CHCH2), 6.13 (s, 1H, isoxazole H) 7.27 (s, 5H, Ph), 8.74 (d, J=8 Hz, 1H, NHCH), 8.97 (bs, 1H, NH); 1R (KBr) 3420, 1773, 1650, 1620, 1358, 1310, 1133 cm-1.

reactant | (S)-N-(2-oxo-3-azetidinyl)benzeneacetamide | 1 mmol, 204 mg | O=C1NC[C@@H]1NC(CC1=CC=CC=C1)=O | C11H12N2O2
reactant | chlorosulfonyl isocyanate | 0.104 mL | ClS(=O)(=O)N=C=O | CClNO3S
reactant | 5-methyl-3-isoxazolamine | 1 mmol, 98 mg | CC1=CC(=NO1)N | C4H6N2O
reactant | triethylamine | 3 mmol, 0.415 mL | C(C)N(CC)CC | C6H15N
reactant | pyridine | 3 mmol, 0.30 mL | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | 1,2-dimethoxyethane | 10 mL | COCCOC | C4H10O2
product | (S)-N-[1-[[[[(5-Methyl-3-isoxazolyl)amino]sulfonyl]amino]-carbonyl]-2-oxo-3-azetidinyl]benzeneacetamide | CC1=CC(=NO1)NS(=O)(=O)NC(=O)N1C([C@H](C1)NC(CC1=CC=CC=C1)=O)=O | C16H17N5O6S
